US04670536
3,3',4,4'-Tetraminodiphenyl sulfone and p-bis(phenylglyoxalyl)benzene were dissolved at a ratio of 2 moles to 3 moles in dioxane, and reaction was carried out at boiling point for 3 hours. Then, 2 moles of 1,2-diamino-4-(2,5-endomethylene-1,2,5,6-tetrahydrophthalimido)benzene synthesized in Example 1 were added to the reaction solution and reaction was carried out at boiling point for 3 hours. Dioxane was removed from the reaction mixture by distillation under a reduced pressure, and the residue was dried in vacuo to completely remove dioxane and obtain a quinoxaline oligomer.

reactant | 3,3',4,4'-Tetraminodiphenyl sulfone | C1=CC(=C(C=C1S(=O)(=O)C2=CC(=C(C=C2)N)N)N)N | C12H14N4O2S
reactant | p-bis(phenylglyoxalyl)benzene | C1(=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=O)=O | C22H14O4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | quinoxaline | N1=CC=NC2=CC=CC=C12 | C8H6N2
